US07419984B2
4-[2-Amino-6-(5-bromo-2-methyl-phenyl)-pyrimidin-4-ylamino]-benzonitrile
Following the method described in Example 26, 4-(5-bromo-2-methyl-phenyl)-6-chloro-pyrimidin-2-ylamine and 4-amino-benzonitrile provided the title compound (72% yield). 1H NMR (CD3OD) δ 2.40 (s, 3H, CH3), 6.38 (s, 1H, Ar), 7.39 (d, 1H, J=8.9 Hz, Ar), 7.68-7.69 (m, 2H, Ar), 7.78-7.80 (m, 2H, Ar), 8.07 (d, 2H, J=7.6 Hz, Ar).

reactant | 4-(5-bromo-2-methyl-phenyl)-6-chloro-pyrimidin-2-ylamine | BrC=1C=CC(=C(C1)C1=NC(=NC(=C1)Cl)N)C | C11H9BrClN3
reactant | 4-amino-benzonitrile | NC1=CC=C(C#N)C=C1 | C7H6N2
product | 4-[2-Amino-6-(5-bromo-2-methyl-phenyl)-pyrimidin-4-ylamino]-benzonitrile | 72% yield | NC1=NC(=CC(=N1)NC1=CC=C(C#N)C=C1)C1=C(C=CC(=C1)Br)C | C18H14BrN5
